US04798897
To 100 ml of a dried dichloromethane solution containing 2.67 g of oxalyl chloride was added dropwise at -50° C. 20 ml of a dichloromethane solution containing 1.64 g of dimethylsulfoxide. The mixture was allowed to stand for 5 minutes. To the mixture was added dropwise over a period of 10 minutes, while maintaining the temperature at -55° C., 40 ml of a dried dichloromethane solution containing 5.84 g of 1-(5-isoquinolinesulfonyl)-4-hydroxypiperidine as obtained in Example 7, followed by stirring at that temperature for 20 minutes. To the resulting mixture was added 1.4 ml of triethylamine, and the mixture was stirred for 5 minutes. Then, the temperature of the mixture was raised to 15° C. The mixture was washed twice with 100 ml each of water and dried with anhydrous sodium sulfate. Then, the dichloromethane was removed under reduced pressure to obtain a residue. The residue thus obtained was subjected to purification by silica gel column chromatography (Wacogel C-200, 150 g; solvent: chloroform) to obtain 5.16 g of 1-(5-isoquinolinesulfonyl)-4-piperidone.

reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | oxalyl chloride | 2.67 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | dimethylsulfoxide | 1.64 g | CS(=O)C | C2H6OS
reactant | dichloromethane | 40 ml | ClCCl | CH2Cl2
reactant | 1-(5-isoquinolinesulfonyl)-4-hydroxypiperidine | 5.84 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)N1CCC(CC1)O | C14H16N2O3S
solvent | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
product | 1-(5-isoquinolinesulfonyl)-4-piperidone | 5.16 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)N1CCC(CC1)=O | C14H14N2O3S
